US04166860
3.62 g. histamine (0.0300 mole) and 5.26 g. (0.0300 mole) O-m-tolyl-N-cyanoisourea are combined in 75 ml. of isopropanol. The mixture is heated 25 minutes to reflux and refluxed 70 minutes. The reaction solution is cooled and stripped to a light orange oil, triturated in benzene, decanted, and the residue is recrystallized from MeOH/CH3CN to obtain N-cyano-N'-[2-(4-imidazolyl)ethyl] guanidine having a m.p. of 152°-154° C.

reactant | histamine | 0.0300 mole | NCCC1=CNC=N1 | C5H9N3
reactant | O-m-tolyl-N-cyanoisourea | 0.0300 mole | C1(=CC(=CC=C1)OC(NC#N)=N)C | C9H9N3O
solvent | isopropanol | C(C)(C)O | C3H8O
product | N-cyano-N'-[2-(4-imidazolyl)ethyl] guanidine | C(#N)NC(=N)NCCC=1N=CNC1 | C7H10N6
